US08278341B2
A mixture of diethyl 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylate (10 g, 23.23 mmol) and KOH (3.7 g) in EtOH/H2O/THF (120/40/10 mL) was heated to 90-100° C. under Ar and stirred for 4-6 h until all starting material disappeared. The reaction mixture was neutralized with 1N aq. HCl. The white ppt was collected by filtration and washed with small amount of water, dried under vacuum to give 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylic acid (8.3 g, 95%).

reactant | diethyl 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylate | 23.23 mmol, 10 g | COC1=C2C(=CC=3C4=CC(=CC=C4NC13)C(=O)OCC)C=1C=C(C=CC1N2)C(=O)OCC | C25H22N2O5
reactant | KOH | 3.7 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH H2O THF | 10 mL | CCO.O.C1CCOC1
product | 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylic acid | 8.3 g, 95% | COC1=C2C(=CC=3C4=CC(=CC=C4NC13)C(=O)O)C=1C=C(C=CC1N2)C(=O)O | C21H14N2O5
